US06670383B2
5,10-Dihydroxy-8,9-dimethyl-4-propyl-9,10-dihydro-8H-pyrano[2,3-f]chromen-2-one (cis- and trans-17a)
A solution of 5-hydroxy-8,9-dimethyl-4-propyl-8,9-dihydro-pyrano[2,3-f]chromene-2,10-dione (a mixture of cis- and trans-37a) (2 g, 6.61 mmol, 1.00 eq) and cerium(III) chloride septahydrate (2.5 g, 6.71 mol, 1.02 eq) in methanol (300 mL) was cooled to 0° C. Sodium borohydride (0.62 g, 16.39 mmol, 2.48 eq) was added portionwise to the stirred solution within 1 h while the temp was maintained at 0-5° C. The reaction mixture was allowed to warm up to room temperature and stirring continued for 2 h. Solvent was removed under vacuum and the residue partitioned between dichloromethane (200 mL) and ice-cold 1N hydrochloric acid (100 mL). The organic layer was separated, washed successively with saturated solution of sodium bicarbonate (200 mL) and brine (200 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum yielding 1.97 g (98%) of a mixture of cis- and trans-17a. The crude product was used for the next step without further purification.

reactant | 5-hydroxy-8,9-dimethyl-4-propyl-8,9-dihydro-pyrano[2,3-f]chromene-2,10-dione | OC1=C2C(=C3C(C(C(OC3=C1)C)C)=O)OC(C=C2CCC)=O | C17H18O5
reactant | cerium(III) chloride | 6.71 mol, 2.5 g, 1.02 eq | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 16.39 mmol, 0.62 g, 2.48 eq | [BH4-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | 5,10-Dihydroxy-8,9-dimethyl-4-propyl-9,10-dihydro-8H-pyrano[2,3-f]chromen-2-one | 1.97 g, 98% | OC1=C2C(=C3C(C(C(OC3=C1)C)C)O)OC(C=C2CCC)=O | C17H20O5
